2191-11-28 06:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2191-11-27**] 08:36 PM
 BLOOD CULTURED - At [**2191-11-27**] 11:00 PM
    1 of 2
 URINE CULTURE - At [**2191-11-27**] 11:00 PM
   Patient without issues overnight
   Warmed with Bair hugger at first due to low temp.
   No seizure like activity noted
   Allergies:
   Metronidazole
   Nausea/Vomiting
   Rash; Exfoliati
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2191-11-27**] 11:00 PM
   Vancomycin - [**2191-11-27**] 11:11 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-11-28**] 06:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 79 (56 - 79) bpm
   BP: 118/59(73) {74/47(54) - 136/64(79)} mmHg
   RR: 13 (12 - 16) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                    941 mL
                                                                     62 mL
   PO:
             TF:
   IVF:
                                                                    941 mL
                                                                     62 mL
   Blood products:
   Total out:
                                                                    140 mL
                                                                    100 mL
   Urine:
                                                                    140 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    801 mL
                                                                    -39 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 70
   PIP: 21 cmH2O
   Plateau: 15 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 97%
   ABG: 7.45/33/244/22/0
   Ve: 6.2 L/min
   PaO2 / FiO2: 610
   Physical Examination
   Gen: Intubated, Sedated, but arousable and in NAD
   CV: RRR, No M/R/G
   Pulm: CTAB
   Abd: Soft, ND, BS +
   Extr: Wasted musculature, but minimal edema, pulses 2+
   Labs / Radiology
   419 K/uL
   13.0 g/dL
   153 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.8 mEq/L
   10 mg/dL
   106 mEq/L
   137 mEq/L
   37.9 %
   4.7 K/uL
        [image002.jpg]
                             [**2191-11-27**]  08:39 PM
                             [**2191-11-27**]  09:55 PM
                             [**2191-11-28**]  04:27 AM
   WBC
   5.8
   4.7
   Hct
   36.6
   37.9
   Plt
   347
   419
   Cr
   0.6
   TCO2
   24
   Glucose
   153
   Other labs: PT / PTT / INR:13.6/28.0/1.2, ALT / AST:[**6-2**], Alk Phos / T
   Bili:145/0.4, Differential-Neuts:83.6 %, Lymph:14.7 %, Mono:1.4 %,
   Eos:0.1 %, Albumin:2.8 g/dL, LDH:245 IU/L, Ca++:8.0 mg/dL, Mg++:1.9
   mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   76-year-old woman with recently diagnosed lung adenocarcinoma with
   possible spine mets, history of protein-losing enteropathy, presented
   with seizure from home, found to have likely new brain mets.
   .
   Plan:
   # Seizure with altered mental status: most likely from new brain
   lesion, which is concerning for brain mets from her lung ca. Not a good
   surgical candidate.
   - continue levetiracetam 1000 mg [**Hospital1 **] for now
   - continue dexamethasone 4mg q6h
   - Has required ventilatory support given inability to protect airway.
   Consider extubation today
   - f/u neurosurg recs
   - brain MRI for better characterization of brain mass
   .
   # Lung cancer: recent transbronchial biopsy revealed adenocarcinoma.
   With suspected spine mets and now with likely new brain mets. Likely
   stage IV. Has been planned to undergo CyberKnife treatment.
   - f/u oncology recs re: further management
   .
   # Possible pneumonia: with opacity in RUL, concerning for aspiration in
   the setting of seizure. Patient does have a history of MRSA bacteremia
   and VRE from abdominal wound.
   - empiric pip-tazo and vanco for now given patient's history of
   frequent hospitalizations; will narrow abx if clinical status and
   culture data permit
   - f/u repeat CXR today.
   - sputum cx if available
   - blood cx
   .
   # Atrial fibrillation: currently in sinus rhythm.
   - continue dilt 60 mg q8h
   - hold warfarin given risk of intracranial bleeding; INR 1.0 currently
   .
   # Protein-losing enteropathy: most recently on TPN in [**2191-5-26**]. S/p abd
   surgeries for SBO.
   - consider restarting TPN for nutrional support if still intubated;
   otherwise, will start PO diet once extubated
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2191-11-27**] 08:35 PM
   18 Gauge - [**2191-11-27**] 08:35 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2191-11-29 06:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2191-11-28**] 10:03 AM
   Rt leg lenes.
   - LENI + R DVT
   - IVC Filter Placed
   - Placed on Nebs
   - D/C Vanc/Zosyn, initiated Ceftriaxone
   - Seen by Neurosurgery
   - Seen by Onc
   - Initiated weaning of the vent
   Allergies:
   Metronidazole
   Nausea/Vomiting
   Rash; Exfoliati
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2191-11-27**] 11:00 PM
   Vancomycin - [**2191-11-27**] 11:11 PM
   Ceftriaxone - [**2191-11-28**] 11:16 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2191-11-28**] 07:59 PM
   Heparin Sodium (Prophylaxis) - [**2191-11-28**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-11-29**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.9
   HR: 81 (59 - 97) bpm
   BP: 143/73(88) {118/55(69) - 149/95(110)} mmHg
   RR: 19 (12 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                    887 mL
                                                                    328 mL
   PO:
             TF:
   IVF:
                                                                    887 mL
                                                                    328 mL
   Blood products:
   Total out:
                                                                    450 mL
                                                                    200 mL
   Urine:
                                                                    450 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    437 mL
                                                                    128 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 500) mL
   Vt (Spontaneous): 380 (368 - 386) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 83
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   Compliance: 47.6 cmH2O/mL
   SpO2: 98%
   ABG: ///21/
   Ve: 6.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   380 K/uL
   12.7 g/dL
   130 mg/dL
   0.8 mg/dL
   21 mEq/L
   4.4 mEq/L
   14 mg/dL
   105 mEq/L
   137 mEq/L
   36.0 %
   11.7 K/uL
        [image002.jpg]
                             [**2191-11-27**]  08:39 PM
                             [**2191-11-27**]  09:55 PM
                             [**2191-11-28**]  04:27 AM
                             [**2191-11-29**]  03:27 AM
   WBC
   5.8
   4.7
   11.7
   Hct
   36.6
   37.9
   36.0
   Plt
   [**Telephone/Fax (3) 6337**]
   Cr
   0.6
   0.6
   0.8
   TCO2
   24
   Glucose
   153
   130
   130
   Other labs: PT / PTT / INR:12.3/26.4/1.0, ALT / AST:[**6-2**], Alk Phos / T
   Bili:145/0.4, Differential-Neuts:83.6 %, Lymph:14.7 %, Mono:1.4 %,
   Eos:0.1 %, Albumin:2.8 g/dL, LDH:245 IU/L, Ca++:8.6 mg/dL, Mg++:2.0
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   76-year-old woman with recently diagnosed lung adenocarcinoma with
   possible spine mets, history of protein-losing enteropathy, presented
   with seizure from home, found to have likely new brain mets.
   .
   Plan:
   # Seizure with altered mental status: most likely from new brain
   lesion, which is concerning for brain mets from her lung ca. Not a good
   surgical candidate.
   - continue levetiracetam 1000 mg [**Hospital1 **] for now
   - continue dexamethasone 4mg q6h
   - Has required ventilatory support given inability to protect airway.
   Consider extubation today
   - f/u neurosurg recs
   - brain MRI for better characterization of brain mass
   .
   # Lung cancer: recent transbronchial biopsy revealed adenocarcinoma.
   With suspected spine mets and now with likely new brain mets. Likely
   stage IV. Has been planned to undergo CyberKnife treatment.
   - f/u oncology recs re: further management
   .
   # Possible pneumonia: with opacity in RUL, concerning for aspiration in
   the setting of seizure. Patient does have a history of MRSA bacteremia
   and VRE from abdominal wound.
   - empiric pip-tazo and vanco for now given patient's history of
   frequent hospitalizations; will narrow abx if clinical status and
   culture data permit
   - f/u repeat CXR today.
   - sputum cx if available
   - blood cx
   .
   # Atrial fibrillation: currently in sinus rhythm.
   - continue dilt 60 mg q8h
   - hold warfarin given risk of intracranial bleeding; INR 1.0 currently
   .
   # Protein-losing enteropathy: most recently on TPN in [**2191-5-26**]. S/p abd
   surgeries for SBO.
   - consider restarting TPN for nutrional support if still intubated;
   otherwise, will start PO diet once extubated
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2191-11-27**] 08:35 PM
   20 Gauge - [**2191-11-28**] 08:39 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2191-11-29 10:19:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2191-11-28**] 10:03 AM
   Rt leg LENIs - DVT documented
   IVC filter place in IR
                   History obtained from Medical records
   Allergies:
   Metronidazole
   Nausea/Vomiting
   Rash; Exfoliati
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2191-11-27**] 11:00 PM
   Vancomycin - [**2191-11-27**] 11:11 PM
   Ceftriaxone - [**2191-11-29**] 09:49 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2191-11-28**] 07:59 PM
   Heparin Sodium (Prophylaxis) - [**2191-11-29**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: NPO
   Respiratory: ventilated
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2191-11-29**] 10:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.9
C (96.7
   HR: 73 (59 - 95) bpm
   BP: 135/62(79) {118/50(67) - 149/95(110)} mmHg
   RR: 23 (12 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                    887 mL
                                                                    603 mL
   PO:
             TF:
   IVF:
                                                                    887 mL
                                                                    553 mL
   Blood products:
   Total out:
                                                                    450 mL
                                                                    445 mL
   Urine:
                                                                    450 mL
                                                                    445 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    437 mL
                                                                    158 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 500) mL
   Vt (Spontaneous): 360 (360 - 380) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 83
   PIP: 11 cmH2O
   Plateau: 16 cmH2O
   Compliance: 47.6 cmH2O/mL
   SpO2: 97%
   ABG: ///21/
   Ve: 7.1 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : occasional,
   dependently)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Absent
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.7 g/dL
   380 K/uL
   130 mg/dL
   0.8 mg/dL
   21 mEq/L
   4.4 mEq/L
   14 mg/dL
   105 mEq/L
   137 mEq/L
   36.0 %
   11.7 K/uL
        [image002.jpg]
                             [**2191-11-27**]  08:39 PM
                             [**2191-11-27**]  09:55 PM
                             [**2191-11-28**]  04:27 AM
                             [**2191-11-29**]  03:27 AM
   WBC
   5.8
   4.7
   11.7
   Hct
   36.6
   37.9
   36.0
   Plt
   [**Telephone/Fax (3) 6337**]
   Cr
   0.6
   0.6
   0.8
   TCO2
   24
   Glucose
   153
   130
   130
   Other labs: PT / PTT / INR:12.3/26.4/1.0, ALT / AST:[**6-2**], Alk Phos / T
   Bili:145/0.4, Differential-Neuts:83.6 %, Lymph:14.7 %, Mono:1.4 %,
   Eos:0.1 %, Albumin:2.8 g/dL, LDH:245 IU/L, Ca++:8.6 mg/dL, Mg++:2.0
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 SEIZURE, WITHOUT STATUS EPILEPTICUS with documentation of multiple
   brain nodules on MRI. Continues keppra, dexamethasone
 ADENOCARCINOMA LUNG: MRI consistent with metastatic disease.  Once
   extubated can update the patient and family today about options for
   treatment going forward.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]) secondary to seizure and
   inability to protect her airway.  On CTX for PNA.  RISBI 83, no
   sedation since IVC filter placement last pm, alert, good gag.  Plan to
   extubate this am.
 DVT:  IVC filter placed yesterday.
 LEUKOCYTOSIS:  Likely secondary to steroids, will trend and follow
   clinically.
 AFIB: On diltiazem.  Holding coumadin given brain masses.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2191-11-27**] 08:35 PM
   20 Gauge - [**2191-11-28**] 08:39 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2191-11-30 07:32:00 Physician Resident Progress Note
Chief Complaint: s/p seizure and intubation for airway protection
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2191-11-29**] 10:28 AM
   -Successfully extubated in am. Stable off vent
   -Per neurosurg (Dr. [**First Name (STitle) **] no place for surgery at this time. Per rad
   onc (Dr. [**First Name (STitle) 6357**] and [**Doctor Last Name 810**]) will start whole brain radiation likely
   consent Wed and tx Thurs
   -Family mtg with Heme/onc and rad onc- want radiation at this time.
   -likely c/o to floor in am
   -Family mtg in afternoon- pt is now DNR/DNI.
   -cultures without growth to date
   History obtained from Patient
   Allergies:
   History obtained from PatientMetronidazole
   Nausea/Vomiting
   Rash; Exfoliati
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2191-11-27**] 11:00 PM
   Vancomycin - [**2191-11-27**] 11:11 PM
   Ceftriaxone - [**2191-11-29**] 09:49 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2191-11-29**] 10:11 PM
   Heparin Sodium (Prophylaxis) - [**2191-11-29**] 10:12 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Edema
   Respiratory: Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated, Daytime somnolence
   Flowsheet Data as of  [**2191-11-30**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.8
   HR: 72 (57 - 86) bpm
   BP: 123/56(73) {109/46(62) - 143/67(84)} mmHg
   RR: 23 (17 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
                  Total In:
                                                                  1,093 mL
                  PO:
                                                                    200 mL
                  TF:
   IVF:
                                                                    843 mL
   Blood products:
   Total out:
                                                                  1,210 mL
                                                                    330 mL
   Urine:
                                                                  1,210 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -117 mL
                                                                   -330 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 360 (360 - 360) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 70%
   PIP: 11 cmH2O
   Plateau: 16 cmH2O
   SpO2: 94%
   ABG: ///25/
   Ve: 7.1 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: at bases bilat)
   Abdominal: Soft, Non-tender, No(t) Distended
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x2- confused about exact date , Movement:
   Purposeful, Tone: Not assessed
   Labs / Radiology
   358 K/uL
   11.6 g/dL
   91 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.9 mEq/L
   13 mg/dL
   106 mEq/L
   141 mEq/L
   33.5 %
   12.0 K/uL
        [image002.jpg]
                             [**2191-11-27**]  08:39 PM
                             [**2191-11-27**]  09:55 PM
                             [**2191-11-28**]  04:27 AM
                             [**2191-11-29**]  03:27 AM
                             [**2191-11-30**]  04:10 AM
   WBC
   5.8
   4.7
   11.7
   12.0
   Hct
   36.6
   37.9
   36.0
   33.5
   Plt
   [**Telephone/Fax (3) 6358**]58
   Cr
   0.6
   0.6
   0.8
   0.5
   TCO2
   24
   Glucose
   153
   130
   130
   91
   Other labs: PT / PTT / INR:13.4/45.3/1.1, ALT / AST:[**6-2**], Alk Phos / T
   Bili:145/0.4, Differential-Neuts:83.6 %, Lymph:14.7 %, Mono:1.4 %,
   Eos:0.1 %, Albumin:2.8 g/dL, LDH:245 IU/L, Ca++:8.3 mg/dL, Mg++:2.3
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   76-year-old woman with recently diagnosed lung adenocarcinoma with
   possible spine mets, history of protein-losing enteropathy, presented
   with seizure from home, found to have new brain mets.
   .
   Plan:
   # Seizure with altered mental status: most likely from new brain
   lesion, which are most likely brain mets from her lung ca. Dr. [**First Name (STitle) **] of
   neurosurgery was contact[**Name (NI) **] yesterday and stated he does not think there
   is a role for neurosurgery at this pt. Dr. [**Last Name (STitle) 810**] from Rad onc also came
   by and talked with the family who would like to pursue total brain
   radiation to begin today or tomorrow- he will be by again today to
   consent the pt.  Dr. [**Last Name (STitle) 1051**] from heme/onc was also here yesterday for
   a family mtg where they discussed the pt's current situation and total
   brain radiation was decided as the preferable option at this time. The
   family and pt also made her status DNR/DNI last night
   - continue levetiracetam 1000 mg [**Hospital1 **] for now
   - continue dexamethasone 4mg q6h
   - Rad onc to consent pt and start total brain radiation today or
   tomorrow
   .
   # Lung cancer: recent transbronchial biopsy revealed adenocarcinoma.
   With suspected spine mets and now with new brain mets. Stage IV.
   -Dr. [**Last Name (STitle) 1051**] is primary oncologist and following pt
   -Rad onc to start total brain radiation as above.
   .
   # Pneumonia: with opacity in RUL, concerning for aspiration in the
   setting of seizure, but more likley CAP. Sputum culture with no growth
   to date.
   - Day 3 ceftriaxone today
   - f/u sputum cx
   - blood cx pend
   .
   # RLE DVT: IVC filter placed [**10-28**]
   - hold off on coumadin given risk of bleeding with brain mets
   .
   # Atrial fibrillation: currently in sinus rhythm.
   - continue dilt 60 mg q8h
   - hold warfarin given risk of intracranial bleeding; INR 1.0 currently
   .
   # Protein-losing enteropathy: most recently on TPN in [**2191-5-26**]. S/p abd
   surgeries for SBO.
   - will discuss possible need for speech and swallow eval and/or
   nutrition consult today. Pt needs to be started on PO diet if possible.
   Nursing notes she is taking pills with liquids with no coughing or
   other signs of aspiration at this time.
   ICU Care
   Nutrition: Will discuss need for speech and swallow and/or nutrition
   consults today prior to starting diet
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2191-11-27**] 08:35 PM
   20 Gauge - [**2191-11-28**] 08:39 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:Transfer to floor

2191-11-30 08:51:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2191-11-29**] 10:28 AM
   Family meeting yesterday reviewing results of brain MRI and opitons for
   treatment with oncology and MICU fellow
   History obtained from Patient
   Allergies:
   Metronidazole
   Nausea/Vomiting
   Rash; Exfoliati
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2191-11-27**] 11:00 PM
   Vancomycin - [**2191-11-27**] 11:11 PM
   Ceftriaxone - [**2191-11-29**] 09:49 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2191-11-29**] 10:11 PM
   Heparin Sodium (Prophylaxis) - [**2191-11-30**] 08:06 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2191-11-30**] 08:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.9
C (96.7
   HR: 64 (57 - 85) bpm
   BP: 116/52(67) {109/46(62) - 135/66(81)} mmHg
   RR: 21 (17 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
                  Total In:
                                                                  1,093 mL
                                                                    100 mL
   PO:
                                                                    200 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    843 mL
   Blood products:
   Total out:
                                                                  1,210 mL
                                                                    430 mL
   Urine:
                                                                  1,210 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -117 mL
                                                                   -330 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases, clear partially
   with deep breathing)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Absent, RLE edema improved
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): to
   name, year, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.6 g/dL
   358 K/uL
   91 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.9 mEq/L
   13 mg/dL
   106 mEq/L
   141 mEq/L
   33.5 %
   12.0 K/uL
        [image002.jpg]
                             [**2191-11-27**]  08:39 PM
                             [**2191-11-27**]  09:55 PM
                             [**2191-11-28**]  04:27 AM
                             [**2191-11-29**]  03:27 AM
                             [**2191-11-30**]  04:10 AM
   WBC
   5.8
   4.7
   11.7
   12.0
   Hct
   36.6
   37.9
   36.0
   33.5
   Plt
   [**Telephone/Fax (3) 6358**]58
   Cr
   0.6
   0.6
   0.8
   0.5
   TCO2
   24
   Glucose
   153
   130
   130
   91
   Other labs: PT / PTT / INR:13.4/45.3/1.1, ALT / AST:[**6-2**], Alk Phos / T
   Bili:145/0.4, Differential-Neuts:83.6 %, Lymph:14.7 %, Mono:1.4 %,
   Eos:0.1 %, Albumin:2.8 g/dL, LDH:245 IU/L, Ca++:8.3 mg/dL, Mg++:2.3
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 METASTATIC ADENOCARCINOMA, LUNG with multiple CNS lesions on MRI.
   Decision yesterday made to pursue whole brain irradiation. Continues
   keppra and decadron.
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY now s/p IVC filiter
   placement.  Not anticoagulated given brain metastases.
 SEIZURE, WITHOUT STATUS EPILEPTICUS:  No further seizure activity on
   keppra.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]): Now off mechanical
   ventilation for 24 hours, doing well without respiratory complaints.
   Completing course of CTX for aspiration pneumonia.
   ICU Care
   Nutrition:
   Comments: Tolerating clear liquids
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2191-11-28**] 08:39 PM
   Prophylaxis:
   DVT: Boots, IVC filter
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 35 minutes